US06579983B1
Hydroxylamine hydrochloride (21.40 g, 308 mmol) was added to a suspension of 1-(4-cyanophenyl)-3-dimethylaminopropen-1-one (55.96 g, 280 mmol) in MeOH (450 ml) and the reaction stirred at room temperature for 24 h. The reaction was diluted with water (400 ml) and the resultant precipitate collected by filtration, washed with water (5×150 ml) and dried in vacuo to give 4-(5-isoxazolyl)-benzonitrile as a pale yellow solid (42.53 g) m.p. 148-149°. δH (CDCl3) 8.35 (1H, d, J 1.8 Hz), 7.91 (2H, d, J 8.3 Hz), 7.77, (2H, d, J 8.3 Hz), 6.66 (1H, d, J 1.8 Hz).

reactant | Hydroxylamine hydrochloride | 308 mmol, 21.40 g | Cl.NO
reactant | 1-(4-cyanophenyl)-3-dimethylaminopropen-1-one | 280 mmol, 55.96 g | C(#N)C1=CC=C(C=C1)C(C=CN(C)C)=O | C12H12N2O
solvent | MeOH | 450 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
product | 4-(5-isoxazolyl)-benzonitrile | 42.53 g | O1N=CC=C1C1=CC=C(C#N)C=C1 | C10H6N2O
